US05475106
Using a procedure similar to that described in Example 17, but starting with 2-[3-(3-methylphenyl)ureido]acetic acid (1.04 g), tert-butyl 2-[(2,3-dichlorophenyl)amino]acetate (1.4 g) and sulphinyl chloride (0.6 g), and after recrystallisation in acetonitrile, tert-butyl 2-{N-(2,3-dichlorophenyl)-2-[3 -(3-methylphenyl)ureido]acetamido}acetate (0.3 g), m.p. 135° C., is obtained.

reactant | 2-[3-(3-methylphenyl)ureido]acetic acid | 1.04 g | CC=1C=C(C=CC1)NC(NCC(=O)O)=O | C10H12N2O3
reactant | tert-butyl 2-[(2,3-dichlorophenyl)amino]acetate | 1.4 g | ClC1=C(C=CC=C1Cl)NCC(=O)OC(C)(C)C | C12H15Cl2NO2
reactant | sulphinyl chloride | 0.6 g | S(=O)(Cl)Cl | Cl2OS
product | tert-butyl 2-{N-(2,3-dichlorophenyl)-2-[3 -(3-methylphenyl)ureido]acetamido}acetate | 0.3 g | ClC1=C(C=CC=C1Cl)N(C(CNC(=O)NC1=CC(=CC=C1)C)=O)CC(=O)OC(C)(C)C | C22H25Cl2N3O4
